US07622492B2
A solution of sodium nitrite (13.2 g, 186 mmol) in water (65 mL) was added over 90 minutes to a cooled (˜0 degrees) mixture of 3-iodo-aniline (40.71 g, 182 mmol) in concentrated hydrochloric acid (80 mL), taking care to ensure that the temperature remained below 0 degrees). The mixture was stirred for 30 min and then filtered. To the filtrate was added dropwise a solution of tin(II) chloride dihydrate (142 g, 0.63 mol) in water, and then the mixture was stirred for 30 minutes with the temperature maintained below 0 degrees. The reaction mixture was placed in the refrigerator overnight and then filtered. The residue was washed with brine, then 1:1 petroleum ether/ether (750 mL) and then with 2:1 petroleum ether/ether (375 mL) and the washings were discarded. The remaining residue was dissolved in 5 M NaOH and ether, and the aqueous layer was extracted with ether. The combined ether layers were washed with water and brine, dried (sodium sulfate), filtered, and evaporated to give 3-iodo-phenylhydrazine (25.3 g, 53%) as a dark red viscous oil.

reactant | sodium nitrite | 186 mmol, 13.2 g | N(=O)[O-].[Na+]
reactant | 3-iodo-aniline | 182 mmol, 40.71 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | tin(II) chloride dihydrate | 0.63 mol, 142 g | O.O.[Sn](Cl)Cl
solvent | water | 65 mL | O | H2O
solvent | hydrochloric acid | 80 mL | Cl | ClH
product | 3-iodo-phenylhydrazine | 25.3 g, 53% | IC=1C=C(C=CC1)NN | C6H7IN2
